US05773433
A mixture of 2-hydroxybenzaldehyde (16.7 g) and Al2O3 /KF (65.5 g) in DMF was heated to 120° C. under a N2 atmosphere and 4-bromo-1-fluoro-2-nitrobenzene (30 g) in DMF was added. The mixture was stirred at 120° C. for 3 hours. The precipitate was filtered off and the filtrate evaporated. The residue was purified by open column chromatography over silica gel (eluent 1: hexane/CH2Cl2 /AcOEt 8/1/1; eluent 2: CH2Cl2 /2-propanone 9/1) and the pure fractions were collected, yielding 26 g (59%) of 2-(4-bromo-2-nitrophenoxy)benzaldehyde (interm. 3). Analogously, 5-chloro-2-(2-nitrophenoxy)benzaldehyde (interm. 4) was prepared.

reactant | 2-hydroxybenzaldehyde | 16.7 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 30 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-bromo-2-nitrophenoxy)benzaldehyde | 26 g, 59% | BrC1=CC(=C(OC2=C(C=O)C=CC=C2)C=C1)[N+](=O)[O-] | C13H8BrNO4
